US05420275
4-Methoxyacetophenone
In 200 ml of ethanol was dissolved 30.0 g of 4-hydroxyacetophenone, and a solution of 11.3 g (1.28 eq.) of sodium hydroxide in 60 ml of water and 33.9 g (1.22 eq.) of dimethyl sulfate were added dropwise consecutively. After the reaction mixture was refluxed for 30 minutes', a solution of 2.8 g (0.32 eq.) of sodium hydroxide dissolved in 10 ml of water was added, followed by heating under for 3 hours' reflux. After the solvent was distilled off, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, and dried. Then, the solvent was distilled off. The resulting crystals were collected by filtration with hexane.

reactant | 4-hydroxyacetophenone | 30.0 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | sodium hydroxide | 11.3 g, 1.28 eq. | [OH-].[Na+]
reactant | dimethyl sulfate | 33.9 g, 1.22 eq. | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 2.8 g, 0.32 eq. | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-Methoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
